US07105503B2
2-Fluoro-4-nitrotoluene (1.55 g, 10 mmol), N-bromosuccinimide (1.82 g, 10 mmol), and benzoyl peroxide (0.1 g, 0.4 mmol) were dissolved in CCl4 (50 mL). The mixture was heated at reflux, and irradiated with light (100 W bulb) for 4 hours. The reaction mixture was then filtered and concentrated. The residue was dissolved in THF (50 mL). Morpholine (1.91 g, 22 mmol) was added to it. The mixture was stirred at ambient temperature for 1 hour and then filtered. The filtrate was evaporated. The bright orange residue was purified by column chromatography eluted with hexane:ethyl acetate, 10:1 to provide 4-(2-fluoro-4-nitrobenzyl)morpholine (1.32 g, 5.5 mmol, yield 55%).

reactant | 2-Fluoro-4-nitrotoluene | 10 mmol, 1.55 g | FC1=C(C=CC(=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | N-bromosuccinimide | 10 mmol, 1.82 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Morpholine | 22 mmol, 1.91 g | N1CCOCC1 | C4H9NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | CCl4 | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 0.4 mmol, 0.1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 4-(2-fluoro-4-nitrobenzyl)morpholine | 5.5 mmol, 1.32 g, yield 55% | FC1=C(CN2CCOCC2)C=CC(=C1)[N+](=O)[O-] | C11H13FN2O3
